US08486963B2
N-(2-Fluoro-4-iodo-phenyl)-malonamic acid ethyl ester
To a solution of 2-fluoro-4-iodoaniline (15.1 g, 63.7 mmol), triethylamine (8.9 mL, 63.7 mmol) and DMAP (100 mg, 0.8 mmol) in DMF (45 mL) was added ethyl malonyl chloride (9.8 mL, 76.4 mmol). The reaction mixture was heated at 60° C. for 2 hours then concentrated in vacuo. The resultant residue was dissolved in ethyl acetate (30 mL), washed with water (20 mL) and the aqueous fraction extracted twice with ethyl acetate (2×10 mL). The combined organic fractions were washed with brine, dried (MgSO4) and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 20-30% ethyl acetate in cyclohexane) to yield the title compound as a white solid (19.5 g, 87%). LCMS (Method B): RT=3.43 min, M+H+=352.

reactant | 2-fluoro-4-iodoaniline | 63.7 mmol, 15.1 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | triethylamine | 63.7 mmol, 8.9 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl malonyl chloride | 76.4 mmol, 9.8 mL | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | DMF | 45 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.8 mmol, 100 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(2-Fluoro-4-iodo-phenyl)-malonamic acid ethyl ester | 19.5 g, 87% | C(C)OC(CC(=O)NC1=C(C=C(C=C1)I)F)=O | C11H11FINO3
